US07217736B2
2-Fluorobenzyl 5-amino-4-oxopentanoate hydrochloride [compound 17]
From 2-fluorobenzyl alcohol (5.7 g; 45 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol). The reaction was complete after 27 h at 100° C. The yield was 0.64 g (44%). Mp 91–94° C. (dec.)

reactant | 2-fluorobenzyl alcohol | 45 mmol, 5.7 g | FC1=C(CO)C=CC=C1 | C7H7FO
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2-Fluorobenzyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCC1=C(C=CC=C1)F)=O | InChI=1S/C12H14FNO3.ClH/c13-11-4-2-1-3-9(11)8-17-12(16)6-5-10(15)7-14;/h1-4H,5-8,14H2;1H
